US06913797B1
200 g of 4-(trans-4-propylcyclohexyl)cyclohexanone and 135.2 g of pyrrolidine were dissolved in 800 ml of toluene. The solution was heated and stirred for 6 hours while water which is evaporated by azeotropic distillation was removed. Azeotropic distillation of the solution was carried out with toluene so that excessive pyrrolidine was removed, and 1-(4-(trans-4-propylcyclohexyl)-cyclohexen-1-yl)-pyrrolidine was obtained. The product as it was was cooled to room temperature, and 800 ml of toluene was added again. The mixture was cooled in a water bath, and 150 ml toluene solution of 89 ml of methyl vinyl ketone was added dropwise over a period of 2 hours at 20° C. or less. After the dropwise addition was completed, the temperature was increased over a period of 2 hours to reach the reflux temperature. The solution was cooled to room temperature, and a buffer solution of pH 5 which was prepared from B5.2 g of sodium acetate, 104.2 ml of acetic acid, and 104.2 ml of water was added. Reflux was further continued for 5 hours. After the solution was cooled to room temperature, the organic phase was separated and rinsed with water and a saturated saline solution. The organic phase was dried on anhydrous sodium sulfate. The solvent was evaporated, and 313 g of 6-(trans-4-propylcyclohexyl)-4,4a,5,6,7,8-hexahydro-2(3H)-naphthalenone was obtained.

reactant | 4-(trans-4-propylcyclohexyl)cyclohexanone | 200 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C15H26O
reactant | pyrrolidine | 135.2 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-(trans-4-propylcyclohexyl)-cyclohexen-1-yl)-pyrrolidine | C(CC)[C@@H]1CC[C@H](CC1)C1CC=C(CC1)N1CCCC1 | C19H33N
